US06034127
e) 2-Chlorobenzenesulfonic acid 3-[(3-cyanophenyl)methoxy]phenyl ester
Diethyl azodicarboxylate (174 mg, 1.0 mmol) was added to a solution of 2-chlorobenzenesulfonic acid 3-hydroxyphenyl ester (285 mg, 1.0 mmol), as prepared in the preceding step, 3-cyanobenzyl alcohol (133 mg, 1.0 mmol)(Yoon et al., J. Org. Chem. 38:2786-2792 (1973)), and triphenylphosphine (263 mg, 1.0 mmol) in tetrahydrofuran (10 mL) at 0° C. The mixture was stirred at 0° C. for 2 hours and at room temperature for 3 hours. The reaction mixture was quenched with water (30 mL) and extracted with ethyl acetate (3×30 mL). The organic phase was washed with saturated NaHCO3 (2×30 mL), brine (2×30 mL) and dried over Na2SO4. The solvent was removed in vacuo the residue was purified by flash column chromatography (2:1 ethyl acetate:hexane) to give the title compound as a pale yellow oil (375 mg, 93%). 1H-NMR (300 MHz, CDCl3) δ 5.02 (s, 2H), 6.78 (m, 2H), 6.85 (dd, 1H, J=4.2, 1.3 Hz), 7.20 (t, 1H, J=8.2 Hz), 7.38 (t, 1H, J=5.8 Hz), 7.51 (t, 1H, J=7.7 Hz), 7.59-7.68 (m, 5H) and 7.93 (dd, 1H, J=4.0, 0.7 Hz).

reactant | Diethyl azodicarboxylate | 1.0 mmol, 174 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-chlorobenzenesulfonic acid 3-hydroxyphenyl ester | 1.0 mmol, 285 mg | OC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C12H9ClO4S
reactant | 3-cyanobenzyl alcohol | 1.0 mmol, 133 mg | C(#N)C=1C=C(CO)C=CC1 | C8H7NO
reactant | triphenylphosphine | 1.0 mmol, 263 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Chlorobenzenesulfonic acid 3-[(3-cyanophenyl)methoxy]phenyl ester | 375 mg, 93% | C(#N)C=1C=C(C=CC1)COC=1C=C(C=CC1)OS(=O)(=O)C1=C(C=CC=C1)Cl | C20H14ClNO4S
